US04859662
1,2,3,9-Tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl] -4H-carbazol-4-one
A solution of N,N,5-trimethyl-4-[(2,3,4,9-tetrahydro-9-methyl-4-oxo-1H-carbazol-3-yl)methyl]-1H-imidazole-1-sulphonamide (400 mg) in 2N hydrochloric acid (30 ml) and absolute ethanol (5 ml) was heated at 100°-110° for 8 h. Work up and FCC as described in Example 32 gave the title compound (261 mg) as a solid. The 1H-n.m.r. and t.l.c. of this material were consistent with those obtained for the product of Example 8.

reactant | N,N,5-trimethyl-4-[(2,3,4,9-tetrahydro-9-methyl-4-oxo-1H-carbazol-3-yl)methyl]-1H-imidazole-1-sulphonamide | 400 mg | CN(S(=O)(=O)N1C=NC(=C1C)CC1CCC=2N(C3=CC=CC=C3C2C1=O)C)C | C20H24N4O3S
solvent | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,2,3,9-Tetrahydro-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methyl] -4H-carbazol-4-one | 261 mg | CN1C2=CC=CC=C2C=2C(C(CCC12)CC=1N=CNC1C)=O | C18H19N3O
